US08685980B2
Following General Procedure D, 7-cyclopentyl-2-(6-piperazin-1-yl-pyridazin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.229 mmol) and 2-bromo ethanol (143 mg, 1.14 mmol) gave 7-cyclopentyl-2-{6-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-pyridazin-3-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (14 mg, 13%). MS (ESI) m/z 480.3 (M+H)+

reactant | 7-cyclopentyl-2-(6-piperazin-1-yl-pyridazin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.229 mmol, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC=2N=NC(=CC2)N2CCNCC2)N1C1CCCC1)C | C22H29N9O
reactant | 2-bromo ethanol | 1.14 mmol, 143 mg | BrCCO | C2H5BrO
product | 7-cyclopentyl-2-{6-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-pyridazin-3-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 14 mg, 13% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC=2N=NC(=CC2)N2CCN(CC2)CCO)N1C1CCCC1)C | C24H33N9O2
